US05157038
Preparation of 8-benzyl-4-methylene-2-oxo-3-(4-toluenesulfonyl)-1-oxa-3,8-diazaspiro[4,5]-decane
A mixture containing 3.2 g of 4-methylene-2-oxo-3-(4-toluenesulfonyl)-1-oxo-3,8-diazaspiro[4,5]decane, 2.1 g of benzyl bromide and 1.7 g of anhydrous potassium carbonate in 32 ml of methyl isobutyl ketone is refluxed under nitrogen while stirring for 8 hours. After cooling down the reaction mixture to room temperature the inorganic salts are filtered off and the filtrate is evaporated under reduced pressure. The residue is dissolved in 50 ml of benzene, washed to bromide-free and neutral with water, dried over anhydrous sodium sulfate fate and evaporated under reduced pressure. After recrystallizing the crude product obtained from ethanol the title substance is obtained in 84% yield, m.p.: 157°-158° C.

reactant | 4-methylene-2-oxo-3-(4-toluenesulfonyl)-1-oxo-3,8-diazaspiro[4,5]decane | 3.2 g | C=C1N(C(C(C12CCNCC2)=O)=O)S(=O)(=O)C2=CC=C(C=C2)C | C16H18N2O4S
reactant | benzyl bromide | 2.1 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl isobutyl ketone | 32 ml | C(C(C)C)C(=O)C | C6H12O
product | 8-benzyl-4-methylene-2-oxo-3-(4-toluenesulfonyl)-1-oxa-3,8-diazaspiro[4,5]-decane | 84% yield | C(C1=CC=CC=C1)N1CCC2(C(N(C(O2)=O)S(=O)(=O)C2=CC=C(C=C2)C)=C)CC1 | C22H24N2O4S
